US07906546B2
A solution of 13 mg (0.02 mmol) of (RS, SR) 4-{5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-benzoic acid methyl ester in a 1:1 mixture of 0.5 mL of THF and 0.5 mL of 1M aqueous LiOH was stirred at RT during one hour. Diluted aqueous HCl was added and the mixture extracted twice with dichloromethane. Drying of the combined organic phases over Na2SO4, filtration and evaporation of the solvent gave ca 13 mg (quantitative) of (RS, SR) 4-{5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-benzoic acid as a yellow solid, MS: 632 (MH30 , 1Br).

reactant | 4-{5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1OC(=NN1)C(F)(C1CC2=C(NC=3C=CC(=CC23)Cl)C1)S(=O)(=O)C1=CC(=CC=C1)Br)=O | C28H20BrClFN3O5S
reactant | LiOH | 1M, 0.5 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-{5-[(3-bromo-benzenesulfonyl)-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,3,4]oxadiazol-2-yl}-benzoic acid | BrC=1C=C(C=CC1)S(=O)(=O)C(C1=NN=C(O1)C1=CC=C(C(=O)O)C=C1)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C27H18BrClFN3O5S
